US09227919B2
Step-6: (R)-3-(4-Oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propanoic acid
To a stirred solution of (R)-ethyl 3-(3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalen]-3′-yl)propanoate (2.3 g, 7.92 mmol) in THF (10 mL) and water (1 mL) in round bottom flask. LiOH (1.328 g, 55.4 mmol) was added and reaction mixture was stirred at 25° C. for 2 h. Reaction mixture was concentrated and acidified with dilute HCl, stirred for 1 h at RT. Extracted with ethyl acetate (2×30 mL), dried over sodium sulphate, concentrated to get crude title compound (1.6 g, 93%); m/z 262.7

reactant | (R)-ethyl 3-(3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalen]-3′-yl)propanoate | 7.92 mmol, 2.3 g | C12(C[C@@H](CC3=CC=CC=C13)CCC(=O)OCC)OCCO2 | C17H22O4
reactant | LiOH | 55.4 mmol, 1.328 g | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (R)-3-(4-Oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propanoic acid | 1.6 g, 93% | O=C1C[C@@H](CC2=CC=CC=C12)CCC(=O)O | C13H14O3
